US04178460
Preparation of α-Isopropyl-3-nitro-4-hydroxyphenylacetic acid
A mixture of α-isopropyl-4-hydroxyphenylacetic acid (18.2 g, 0.094 mol) in acetic acid (130 ml) is heated to 40° C. and nitric acid (70%, 9.56 g, 0.095 mol) is added at such a rate that the reaction temperature is maintained at 38°-40° and never exceeded 45° C. The reaction mixture is stirred at 40°-42° C. overnight and poured into ice-water. The yellow solid is collected by filtration, washed and dried (19.1 g); m.p. 103°-105°.

reactant | α-isopropyl-4-hydroxyphenylacetic acid | 0.094 mol, 18.2 g | C(C)(C)C(C(=O)O)C1=CC=C(C=C1)O | C11H14O3
reactant | nitric acid | 0.095 mol, 9.56 g | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 130 ml | C(C)(=O)O | C2H4O2
product | α-Isopropyl-3-nitro-4-hydroxyphenylacetic acid | C(C)(C)C(C(=O)O)C1=CC(=C(C=C1)O)[N+](=O)[O-] | C11H13NO5
